US08138339B2
To a solution of 2-chloro-4-(1-methyl-1H-indol-4-ylamino)pyrimidine-5-carboxylic acid (325 mg, 1.08 mmol) and HOBt (198 mg, 1.29 mmol) in DMF (4 mL), EDC (248 mg, 1.29 mmol) was added. The mixture was stirred at room temperature for 1.5 h. Ammonia (0.5 M in dioxane, 8.00 mL, 4.00 mmol) was added. It was stirred at room temperature overnight. Water and EtOAc were added. The organic phase was separated, washed with 1 N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(1-methyl-1H-indol-4-ylamino)pyrimidine-5-carboxamide (378 mg). MS 401.4 (M+H)

reactant | 2-chloro-4-(1-methyl-1H-indol-4-ylamino)pyrimidine-5-carboxylic acid | 1.08 mmol, 325 mg | ClC1=NC=C(C(=N1)NC1=C2C=CN(C2=CC=C1)C)C(=O)O | C14H11ClN4O2
reactant | HOBt | 1.29 mmol, 198 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.29 mmol, 248 mg
reactant | Ammonia | 4.00 mmol, 0.5 M, 8.00 mL | N | H3N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(1-methyl-1H-indol-4-ylamino)pyrimidine-5-carboxamide | 378 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NC2=C1C=CN(C1=CC=C2)C)C(=O)N | C20H16N8O2
